US03988318
PREPARATION OF N METHYL-2-PYRROLIDONE HEXACHLOROPHENE COMPLEX (1:1)
A slurry is prepared from 10.2 grams (0.25 mol) of hexachlorophene and 24.8 grams (0.25 mol) of N-methyl-2-pyrrolidone and intimately mixed in a glass reactor. An exotherm of 8° C. is evidenced and a solid product is formed which is the N-methyl-2-pyrrolidone hexachlorophene complex. The slurry is melted at about 120° C. and then stirred for 15 minutes. On cooling, a crystalline solid is obtained. The crystals are dissolved in hexane-toluene (50/50) solvent and separated by decantation and evaporation.

reactant | hexachlorophene | 0.25 mol, 10.2 grams | C1=C(C(=C(C(=C1Cl)Cl)CC=2C(=C(C=C(C2Cl)Cl)Cl)O)O)Cl | C13H6Cl6O2
reactant | N-methyl-2-pyrrolidone | 0.25 mol, 24.8 grams | CN1C(CCC1)=O | C5H9NO
solvent | hexane toluene | CCCCCC.C1(=CC=CC=C1)C
product | METHYL-2-PYRROLIDONE HEXACHLOROPHENE | CN1C(CCC1)=O.C1=C(C(=C(C(=C1Cl)Cl)CC=2C(=C(C=C(C2Cl)Cl)Cl)O)O)Cl | InChI=1S/C13H6Cl6O2.C5H9NO/c14-6-2-8(16)12(20)4(10(6)18)1-5-11(19)7(15)3-9(17)13(5)21;1-6-4-2-3-5(6)7/h2-3,20-21H,1H2;2-4H2,1H3
